*******************************************************************
* CDL Produced by pegasusBuildNetlist on Mon Aug 31 17:31:30 2026 *
*******************************************************************



* File content...


***********************************************************
* CDL produced by pvsBuildNetlist on Aug 31 17:31:30 2026 *
***********************************************************


*pvsViewList = auLvs schematic
*pvsStopList = ("auLvs")
*pvsSimName  = auLvs



*.EXPAND_ON_M_FACTOR
*.MEGA



.subckt inverter in out vdd vss
*PVSCELL netlisted from sar_adc inverter schematic
  MNM0 out in vss vss nfet_01v8 m=1 l=150n w=420n
  MPM0 out in vdd vdd pfet_01v8 m=1 l=150n w=550n
.ends inverter


***********************************************************
*             Completed at Aug 31 17:31:30 2026           *
***********************************************************
