*******************************************************************
* CDL Produced by pegasusBuildNetlist on Fri Jul 31 09:50:13 2026 *
*******************************************************************



* File content...


***********************************************************
* CDL produced by pvsBuildNetlist on Jul 31 09:50:13 2026 *
***********************************************************


*pvsViewList = auLvs schematic
*pvsStopList = ("auLvs")
*pvsSimName  = auLvs



*.EXPAND_ON_M_FACTOR
*.MEGA



.subckt cap_array_8b vbottom<0> vbottom<1> vbottom<2> vbottom<3> vbottom<4>
+  vbottom<5> vbottom<6> vbottom<7> vbottom_dum vtop
*PVSCELL netlisted from sky130_analog_lib cap_array_8b schematic
  CC0 vtop vbottom<0> cap_mim_m3__base l=4u w=4u m=1
  CC1 vtop vbottom<1> cap_mim_m3__base l=4u w=4u m=2
  CC2 vtop vbottom<2> cap_mim_m3__base l=4u w=4u m=4
  CC3 vtop vbottom<3> cap_mim_m3__base l=4u w=4u m=8
  CC4 vtop vbottom<4> cap_mim_m3__base l=4u w=4u m=16
  CC5 vtop vbottom<5> cap_mim_m3__base l=4u w=4u m=32
  CC6 vtop vbottom<6> cap_mim_m3__base l=4u w=4u m=64
  CC7 vtop vbottom<7> cap_mim_m3__base l=4u w=4u m=128
  CC8 vtop vbottom_dum cap_mim_m3__base l=4u w=4u m=1
.ends cap_array_8b


***********************************************************
*             Completed at Jul 31 09:50:13 2026           *
***********************************************************
